* Z:\home\peter\Documents\Uni\Courses\FondamentiElettronica\1819\SPICE\FirstExercise\schematics\PietroPrandini_FE_18-19_1.1.asc
Vin Vi 0 100mV DC 0 AC 1 sin(0 100mV 10kHz 0 0 0)
C2 V+ Vi 100n
R2 V+ 0 100k
R3 V- 0 1k
R4 Vo V- 10k
XU1 V- V+ Vo opamp Aol=100K GBW=10Meg
.backanno
.end
